US06222062B1
Succinic acid mono-(3,7-dimethyl-oct-6-enyl) ester
A solution of 30.0 g succinic anhydride, 46.9 g citronellol, 36.0 g pyridine and 2.2 g 4-dimethylaminopyridine in 300 ml of dichloromethane was refluxed for 22 hours. Then the solution was cooled, ether was added and the organic phase was washed with 2N HCl and water to neutrality, dried and evaporated to dryness. The residue was wipe-film distilled to yield 36.4 g of a colourless liquid.

reactant | succinic anhydride | 30.0 g | C1(CCC(=O)O1)=O | C4H4O3
reactant | citronellol | 46.9 g | CC(C)=CCCC(C)CCO | C10H20O
reactant | pyridine | 36.0 g | N1=CC=CC=C1 | C5H5N
reactant | ether | CCOCC | C4H10O
catalyst | 4-dimethylaminopyridine | 2.2 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 300 ml | ClCCl | CH2Cl2
product | Succinic acid mono-(3,7-dimethyl-oct-6-enyl) ester | 36.4 g | CC(CCOC(CCC(=O)O)=O)CCC=C(C)C | C14H24O4
